US05409943
(a) 2-Amino- 3-(2-chloro-6-fluorobenzyloxy)-6-methylpyridine
A mixture of 2-amino-3-hydroxy-6-methylpyridine (4.3 g, 0.035 mol), dichloromethane (26 ml) and 40% aqueous sodium hydroxide solution (26 ml) was stirred for five minutes at room temperature, then 2-chloro-6-fluorobenzyl chloride (6.8 g, 0.038 mol) and Adogen 464 (2.5 ml) were added and stirring continued for 16 hours. The mixture was diluted with water and extracted with dichloromethane. Drying and evaporation of the organic extracts and trituration with ethanol gave the desired product. Yield 6.3 g (67%), m.p. 108°-109 ° C.

reactant | 2-amino-3-hydroxy-6-methylpyridine | 0.035 mol, 4.3 g | NC1=NC(=CC=C1O)C | C6H8N2O
reactant | dichloromethane | 26 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 26 ml | [OH-].[Na+]
reactant | 2-chloro-6-fluorobenzyl chloride | 0.038 mol, 6.8 g | ClC1=C(CCl)C(=CC=C1)F | C7H5Cl2F
catalyst | Adogen 464 | 2.5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | 2-Amino- 3-(2-chloro-6-fluorobenzyloxy)-6-methylpyridine | NC1=NC(=CC=C1OCC1=C(C=CC=C1F)Cl)C | C13H12ClFN2O
